US06930120B2
3-{4-[2-(2-Cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-(3,4-dimethyl-phenoxy)-2-methyl-propionic acid
The representative parallel synthesis procedure (B) was used to prepare the title compound from 2-(3,4-dimethylphenoxy)-3-(4-hydroxyphenyl)-2-methylpropionic acid ethyl ester and toluene-4-sulfonic acid 2-(2-cyclohexyl-5-methyl-oxazol-4-yl)-ethyl ester. 1H NMR (400 MHz, CDCl3) δ 7.18 (d, 2H, J=8.4 Hz), 6.99 (d, 1H, J=8.4 Hz), 6.79 (d, 2H, J=8.4 Hz), 6.71 (d, 1H, J=2.4 Hz), 6.64 (dd, 1H, J=8.4, 2.4 Hz), 4.16 (t, 2H, J=6.0 Hz), 3.21 and 3.11 (d of Abq, 2H, J=14.0 Hz), 2.98 (t, 2H, J=6.0 Hz), 2.91 (tt, 1H, J=11.4, 3.2 Hz), 2.31 (s, 3H), 2.20 (s, 3H), 2.19 (s, 3H), 2.06-2.02 (m, 2H), 1.85-1.79 (m, 2H), 1.73-1.68 (m, 1H), 1.62-1.51 (m, 2H), 1.42-1.22 (m, 3H), 1.39 (s, 3H). IR (KBr) 3500, 2935, 1735, 1612, 1513, 1249, 1178 cm−1. HRMS (ES+) m/z exact mass calcd for C30H38NO5 492.2750, found 492.2751.

reactant | 2-(3,4-dimethylphenoxy)-3-(4-hydroxyphenyl)-2-methylpropionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=CC(=C(C=C1)C)C)=O | C20H24O4
reactant | toluene-4-sulfonic acid 2-(2-cyclohexyl-5-methyl-oxazol-4-yl)-ethyl ester | C1(CCCCC1)C=1OC(=C(N1)CCOS(=O)(=O)C1=CC=C(C=C1)C)C | C19H25NO4S
product | 3-{4-[2-(2-Cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-(3,4-dimethyl-phenoxy)-2-methyl-propionic acid | C1(CCCCC1)C=1OC(=C(N1)CCOC1=CC=C(C=C1)CC(C(=O)O)(C)OC1=CC(=C(C=C1)C)C)C | C30H37NO5
